US07615289B2
Synthesis of (9-(9,9-dihexylfluoren-2-yl)-2,7-dibromofluoren-9-ol) (1)
To 5.64 g of Mg placed into a 1000 ml three-neck flask, 80 g of 9,9-dihexyl-2-bromofluorene in 300 ml THF was slowly added dropwise, to prepare a Grignard reagent. After a temperature of a reaction chamber was decreased to −40° C. or less, 52 g of 2,7-dibromofluorenone was added to the reaction bath in a nitrogen atmosphere. The temperature was gradually increased to room temperature, followed by stirring for 10 hours. The resulting reaction solution was poured into water, after which an extraction was performed using diethyl ether. The solvent was evaporated using a rotary evaporator. A column chromatography separation resulted in 60 g (58%) of (9-(9,9-dihexylfluoren-2-yl)-2,7-dibromofluoren-9-ol) (1).

reactant | 9,9-dihexyl-2-bromofluorene | 80 g | C(CCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)Br)CCCCCC | C25H33Br
reactant | 2,7-dibromofluorenone | 52 g | BrC=1C(C2=CC3=CC(=CC=C3C2=CC1)Br)=O | C13H6Br2O
reactant | water | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 9-(9,9-dihexylfluoren-2-yl)-2,7-dibromofluoren-9-ol | C(CCCCC)C1(C2=CC=CC=C2C=2C=CC(=CC12)C1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)O)CCCCCC | C38H40Br2O
